US05543534
Ethyl 6-iodonicotinoate
To a suspension of 23.38 g (94.2 mmol) of 6-iodonicotinic acid in 100 ml of dichloromethane was added a solution of 19.86 g (103.6 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride in 250 ml of dichloromethane. To this suspension was added 12.40 g (15.8 ml, 269.3 mmol) of ethanol (95%) and 1.15 g (9.4 mmol) of 4-dimethylaminopyridine. The resulting solution mixture was then heated at 50° C. in an oil bath for 24.5 hours, concentrated in vacuo, partitioned between 200 ml of water and 250 ml of ethyl ether, and the layers were separated. The aqueous phase was washed with 2×150 ml-portions of ethyl ether. All organic phases were combined, washed once with 75 ml of brine solution, dried over MgSO4, filtered and concentrated in vacuo to a yellow solid. Purification by flash chromatography (silica, 10% ethyl acetate in hexane) yielded the title compound as a white solid.

reactant | 6-iodonicotinic acid | 94.2 mmol, 23.38 g | IC1=NC=C(C(=O)O)C=C1 | C6H4INO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 103.6 mmol, 19.86 g | Cl.CN(CCCN=C=NCC)C
reactant | ethanol | 269.3 mmol, 15.8 ml, 12.40 g | C(C)O | C2H6O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 9.4 mmol, 1.15 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Ethyl 6-iodonicotinoate | IC1=NC=C(C(=O)OCC)C=C1 | C8H8INO2
